US04788201
1'-N-Acetyl-5-fluoro-3-methylenespiro[benzofuran-2(3H),4'-piperidine]
A stirred suspension of 19.4 g of 1N-acetyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine, 91 ml of water and 6.9 ml of hydrochloric acid was heated at reflux until the starting material dissolved. The mixture was then cooled to below 10°. To the mixture was added slowly, dropwise, 7.6 ml of concentrated hydrochloric acid at a rate such that the temperature did not exceed 10°. To the mixture was then added dropwise a solution of 5.09 g of sodium nitrite in 11 ml water, maintaining the temperature below 10°. The mixture was stirred at 5°-10° for 25-30 min and subsequently filtered into 145 ml of 30% hypophosphorous acid. The mixture was allowed to stand overnight in a cold room and at room temperature for 8 hr. The mixture was diluted with water, extracted twice with ether, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The mixture was filtered and the filtrate was evaporated. The residue was filtered through 200 g of alumina and eluted with 600 ml of ether. Evaporation of solvent provided an oil, which crystallized on standing to yield 4.72 g (25.7%) of product, mp 114°-116°.

reactant | acetyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine | C(C)(=O)N1CCC(CC1)(C#C)OC1=C(C=C(C=C1)F)N | C15H17FN2O2
reactant | hydrochloric acid | 6.9 ml | Cl | ClH
reactant | hydrochloric acid | 7.6 ml | Cl | ClH
reactant | sodium nitrite | 5.09 g | N(=O)[O-].[Na+]
solvent | water | 11 ml | O | H2O
solvent | water | 91 ml | O | H2O
product | 1'-N-Acetyl-5-fluoro-3-methylenespiro[benzofuran-2(3H),4'-piperidine] | 4.72 g, 25.7% | C(C)(=O)N1CCC2(CC1)OC1=C(C2=C)C=C(C=C1)F | C15H16FNO2
